US05011931
3-Chloroperoxybenzoic acid (0.63 g) was added to a solution of 5'-fluoro-N-methyl-2'-methylsulphinylacetylformanilide (0.78 g), prepared in a similar manner to that described in Example 8, in dichloromethane (25 ml). The mixture was stirred at ambient temperature for 2 hours and then washed with saturated aqueous sodium hydrogen carbonate solution (2×20 ml) and water (2×20 ml). Evaporation in vacuo gave an oil which was crystallised from toluene gave to give 5'-fluoro-N-methyl-2'-methylsulphonylacetylformanilide, m.p. 95°-97° C.

reactant | 3-Chloroperoxybenzoic acid | 0.63 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | 5'-fluoro-N-methyl-2'-methylsulphinylacetylformanilide | 0.78 g | FC=1C=CC(=C(N(C=O)C)C1)C(CS(=O)C)=O | C11H12FNO3S
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 5'-fluoro-N-methyl-2'-methylsulphonylacetylformanilide | FC=1C=CC(=C(N(C=O)C)C1)C(CS(=O)(=O)C)=O | C11H12FNO4S
